US06310095B1
N-Butyl-2-phenylethylamine
2-Phenethylamine (12.5 mL, 12.1 g, 99.5 mmol), butyraldehyde (13.2 mL, 10.8 g, 150 mmol), and 3 Å molecular sieves were stirred at 50 ° C. for 1 h, then at RT for 5.5 h. The reaction was then diluted with CH2Cl2, filtered through celite, then concentrated to an oil. That oil was dissolved in absolute EtOH (150 mL-previously cooled to 0 ° C.), and NaBH4 (5.7 g, 150 mmol) was added. The reaction was stirred at RT overnight, concentrated, partitioned between water and Et2O, then the organic layer was washed with water and brine. After drying over Na2SO4, filtration, and concentration, the compound was purified by vacuum distillation using a 6″ Vigeraux column (98-100° C./9 mm). Recovered 8.2 g (46%).

reactant | 2-Phenethylamine | 99.5 mmol, 12.5 mL, 12.1 g | C1=CC=C(C=C1)CCN | C8H11N
reactant | butyraldehyde | 150 mmol, 13.2 mL, 10.8 g | C(CCC)=O | C4H8O
reactant | NaBH4 | 150 mmol, 5.7 g | [BH4-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-Butyl-2-phenylethylamine | C(CCC)NCCC1=CC=CC=C1 | C12H19N
